US08440837B2
Step 1: Intermediate—2: 2-Phenylethynyl-thiazole-5-carboxylic acid ethyl ester
A solution of phenylacetylene (6.15 ml, 55.9 mmol), ethyl 2-bromothiazole-5-carboxylate (7.59 ml, 50.8 mmol), bis(triphenylphosphine)palladium(II) chloride (1.07 g, 1.52 mmol), copper (I) iodide (581 mg, 3.05 mmol), triethylamine (100 ml, 717 mmol) and tetrahydrofuran (225 mL) was stirred at 25° C. for 16 h. The reaction was worked up by concentrating to remove the THF and taken up in 400 mL of CHCl3. The CHCl3 was washed with 2×75 mL of 3.7% aq. HCl, 75 mL of brine, and dried (Na2SO4). The material was purified by silica gel chromatography using a gradient elution going from 4.5% to 8.5% EtOAc in hexanes over 30 minutes to give the titled compound, 2-phenylethynyl-thiazole-5-carboxylic acid ethyl ester (9.5 g, 73% yield), as a solid, which was used without further purification in the next step.

reactant | phenylacetylene | 55.9 mmol, 6.15 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | ethyl 2-bromothiazole-5-carboxylate | 50.8 mmol, 7.59 ml | BrC=1SC(=CN1)C(=O)OCC | C6H6BrNO2S
reactant | triethylamine | 717 mmol, 100 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 1.52 mmol, 1.07 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 3.05 mmol, 581 mg | [Cu]I
solvent | tetrahydrofuran | 225 mL | O1CCCC1 | C4H8O
product | 2-phenylethynyl-thiazole-5-carboxylic acid ethyl ester | 9.5 g, 73% yield | C(C)OC(=O)C1=CN=C(S1)C#CC1=CC=CC=C1 | C14H11NO2S
